US07625908B2
N-{(1S)-2-[(4-{[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]-1-methylethyl}-2-hydroxy-N-methylacetamide
The procedure described in Example 3 was repeated using picolyl chloride hydrochloride and N-[(1S)-2-({4-[(3-chloro-4-hydroxyphenyl)amino]quinazolin-5-yl}oxy)-1-methylethyl]-2-hydroxy-N-methylacetamide to give the title compound in 57% yield; NMR spectrum (DMSO-d6) 1.20 (dd, 3H), 2.80 (d, 3H), 3.10 (m, 1H), 3.80-4.20 (m, 2H), 4.20-4.50 (m, 2H), 5.15 (m, 1H), 5.30 (s, 2H), 7.20 (m, 2H), 7.30 (m, 2H), 7.50 (d, 1H), 7.60 (d, 1H), 7.70 (m, 1H), 7.80-7.95 (m, 2H), 8.40 (d, 1H), 8.60 (d, 1H), 9.60 (s, 1H); Mass spectrum MH+ 508.2.

reactant | picolyl chloride hydrochloride | Cl.N1=C(C=CC=C1)CCl
reactant | N-[(1S)-2-({4-[(3-chloro-4-hydroxyphenyl)amino]quinazolin-5-yl}oxy)-1-methylethyl]-2-hydroxy-N-methylacetamide | ClC=1C=C(C=CC1O)NC1=NC=NC2=CC=CC(=C12)OC[C@H](C)N(C(CO)=O)C | C20H21ClN4O4
product | N-{(1S)-2-[(4-{[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]-1-methylethyl}-2-hydroxy-N-methylacetamide | 57% yield | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)OC[C@H](C)N(C(CO)=O)C | C26H26ClN5O4
